### PR TITLE
[Merged by Bors] - feat: inclusion exclusion principle for integrals

### PR DESCRIPTION
**Pull request by sgouezel**
Prove that the integral of a function over a union of sets is the alternating sum of the integrals over the intersections of the set. Also give a version for the (real-valued) measure of a union of sets.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/InclusionExclusion.lean [hunk 1]
```diff
@@ -33,27 +33,78 @@ Per the above explanation, this file contains the following variants of inclusio
...
     exact prod_eq_zero hi <| by simp [*, -coe_biUnion]
 
+/-- **Inclusion-exclusion principle**, indicator version over a finite union of sets. -/
+lemma indicator_biUnion_eq_sum_powerset (s : Finset ι) (S : ι → Set α) (f : α → G) (a : α) :
+    Set.indicator (⋃ i ∈ s, S i) f a = ∑ t ∈ s.powerset with t.Nonempty,
+      (-1) ^ (#t + 1) • Set.indicator (⋂ i ∈ t, S i) f a := by
+  classical
+  by_cases ha : a ∈ ⋃ i ∈ s, S i; swap
+  · simp only [ha, not_false_eq_true, Set.indicator_of_notMem, Int.reduceNeg,
+      pow_succ, mul_neg, mul_one, neg_smul]
```
Comment (EtienneC30) [inline Mathlib/Combinatorics/Enumerative/InclusionExclusion.lean]:
```suggestion
  · simp only [ha, not_false_eq_true, Set.indicator_of_notMem, Int.reduceNeg, pow_succ, mul_neg,
      mul_one, neg_smul]
```

File: Mathlib/Combinatorics/Enumerative/InclusionExclusion.lean [hunk 2]
```diff
@@ -33,27 +33,78 @@ Per the above explanation, this file contains the following variants of inclusio
...
+    symm
+    apply sum_eq_zero
+    simp only [Int.reduceNeg, neg_eq_zero, mem_filter,
+      mem_powerset, and_imp]
```
Comment (EtienneC30) [inline Mathlib/Combinatorics/Enumerative/InclusionExclusion.lean]:
```suggestion
    simp only [Int.reduceNeg, neg_eq_zero, mem_filter, mem_powerset, and_imp]
```

File: Mathlib/Combinatorics/Enumerative/InclusionExclusion.lean [hunk 3]
```diff
@@ -33,27 +33,78 @@ Per the above explanation, this file contains the following variants of inclusio
...
+    intro t hts ht
+    rw [Set.indicator_of_notMem]
+    · simp
+    · contrapose! ha
+      simp only [Set.mem_iInter] at ha
+      rcases ht with ⟨i, hi⟩
+      simp only [Set.mem_iUnion, exists_prop]
+      refine ⟨i, hts hi, ha _ hi⟩
```
Comment (EtienneC30) [inline Mathlib/Combinatorics/Enumerative/InclusionExclusion.lean]:
```suggestion
      exact ⟨i, hts hi, ha _ hi⟩
```

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean [hunk 4]
```diff
@@ -162,8 +163,41 @@ theorem setIntegral_indicator (ht : MeasurableSet t) :
...
+/-- **Inclusion-exclusion principle** for the integral of a function over a union.
+
+The integral of a function `f` over the union of the `s i` over `i ∈ t` is the alternating sum of
+the integrals of `f` over the intersections of the `s i`. -/
+theorem integral_biUnion_eq_sum_powerset {ι : Type*} {t : Finset ι} {s : ι → Set X}
+    (hs : ∀ i ∈ t, MeasurableSet (s i)) (hf : ∀ i ∈ t, IntegrableOn f (s i) μ) :
+    ∫ x in ⋃ i ∈ t, s i, f x ∂μ = ∑ u ∈ t.powerset with u.Nonempty,
+      (-1 : ℝ) ^ (#u + 1) • ∫ x in ⋂ i ∈ u, s i, f x ∂μ := by
+  simp_rw [← integral_smul]
+  rw [← integral_indicator (Finset.measurableSet_biUnion _ hs)]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Bochner/Set.lean]:
```suggestion
  simp_rw [← integral_smul, ← integral_indicator (Finset.measurableSet_biUnion _ hs)]
```

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean [hunk 5]
```diff
@@ -162,8 +163,41 @@ theorem setIntegral_indicator (ht : MeasurableSet t) :
...
+  have A (u) (hu : u ∈ t.powerset.filter (·.Nonempty)) : MeasurableSet (⋂ i ∈ u, s i) := by
+    apply Finset.measurableSet_biInter
+    intro i hi
+    apply hs
+    aesop
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Bochner/Set.lean]:
```suggestion
    refine u.measurableSet_biInter fun i hi ↦ hs i ?_
    aesop
```

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean [hunk 6]
```diff
@@ -172,7 +206,24 @@ theorem ofReal_setIntegral_one_of_measure_ne_top {X : Type*} {m : MeasurableSpac
 
 theorem ofReal_setIntegral_one {X : Type*} {_ : MeasurableSpace X} (μ : Measure X)
     [IsFiniteMeasure μ] (s : Set X) : ENNReal.ofReal (∫ _ in s, (1 : ℝ) ∂μ) = μ s :=
-  ofReal_setIntegral_one_of_measure_ne_top (measure_ne_top μ s)
+  ofReal_setIntegral_one_of_measure_ne_top
+
+theorem setIntegral_one_eq_measureReal {X : Type*} {m : MeasurableSpace X}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Bochner/Set.lean:208]: This could be `simp` I think.

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean [hunk 7]
```diff
@@ -172,7 +206,24 @@ theorem ofReal_setIntegral_one_of_measure_ne_top {X : Type*} {m : MeasurableSpac
...
+
+/-- **Inclusion-exclusion principle** for the measure of a union of sets of finite measure.
+
+The measure of the union of the `s i` over `i ∈ t` is the alternating sum of the measures of the
+intersections of the `s i`. -/
+theorem measureReal_biUnion_eq_sum_powerset {ι : Type*} {t : Finset ι} {s : ι → Set X}
+    (hs : ∀ i ∈ t, MeasurableSet (s i)) (hf : ∀ i ∈ t, μ (s i) ≠ ∞ := by finiteness) :
+    μ.real (⋃ i ∈ t, s i) = ∑ u ∈ t.powerset with u.Nonempty,
+      (-1 : ℝ) ^ (#u + 1) * μ.real (⋂ i ∈ u, s i) := by
+  simp only [← setIntegral_one_eq_measureReal]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/Bochner/Set.lean]:
```suggestion
  simp_rw [← setIntegral_one_eq_measureReal]
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/Bochner/Set.lean:208]: No, because it's already proved by a bare `simp`.

**Review by sgouezel — COMMENTED** [review]
Thanks for the review!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
